US07402608B2
A suspension of 3-amino-5-phenyl-thiophene-2-carboxylic acid methyl ester (0.268 g, 1.15 mmol) and 3-formyl N-Cbz-piperidine (0.284 g, 1.15 mmol) in THF (0.5 mL) was treated with dibutyltin dichloride (17 mg, 0.057 mmol). After 5 min, phenylsilane (156 □L, 1.26 mmol) was added and the mixture was stirred for 6 days at room temperature. The solvent was then evaporated and the residue was purified by silica gel column chromatography using CH2Cl2:hexanes:EtOAc as eluent to provide 3-[(1-Methyl-piperidin-3-ylmethyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester as an oil (0.2723 g, 51% yield). 1H NMR (CDCl3, 400 MHz): 7.63-7.59 (m, 2H), 7.40-7.28 (m, 9H), 7.18-6.84 (br s, 1H), 5.20 (d, 1H), 5.10 (d, 1H), 4.55 (m, 1H), 4.15 (m, 1H), 3.82 (s, 3H), 3.58-3.40 (m, 2H), 2.90 (t, 1H), 1.88-1.40 (m, 6H).

reactant | 3-amino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 1.15 mmol, 0.268 g | COC(=O)C=1SC(=CC1N)C1=CC=CC=C1 | C12H11NO2S
reactant | 3-formyl N-Cbz-piperidine | 1.15 mmol, 0.284 g | C(=O)C1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C14H17NO3
reactant | phenylsilane | 1.26 mmol | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | dibutyltin dichloride | 0.057 mmol, 17 mg | C(CCC)[Sn](CCCC)(Cl)Cl
product | 3-[(1-Methyl-piperidin-3-ylmethyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.2723 g, 51% yield | COC(=O)C=1SC(=CC1NCC1CN(CCC1)C)C1=CC=CC=C1 | C19H24N2O2S
